US05710106
Preparation of 6-[(2-Chloro-4-pyridyl)oxy]-2-pyridinemethanol
A one molar solution of diisobutylaluminum hydride in tetrahydrofuran (200 mL, 0.2 mol) is added over 45 minutes to a solution of methyl 6-[(2-chloro-4-pyridyl)oxy]picolinate (18.15 g, 0.069 mol) in diethyl ether (300 mL) at -50° C. Under a nitrogen atmosphere. The reaction mixture is stirred at -50° C. for two hours, allowed to warm to 0° C. and acidified with dilute hydrochloric acid. The phases are separated and the aqueous phase is extracted with diethyl ether. The organic extracts are combined with the organic phase and the resultant solution is washed with saturated sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain an oil. Flash column chromatography of the oil using silica gel and a 7:3 hexane/ethyl acetate solution gives the title product as a colorless oil (10.2 g, 62.5%).

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | tetrahydrofuran | 0.2 mol, 200 mL | O1CCCC1 | C4H8O
reactant | methyl 6-[(2-chloro-4-pyridyl)oxy]picolinate | 0.069 mol, 18.15 g | ClC1=NC=CC(=C1)OC1=CC=CC(=N1)C(=O)OC | C12H9ClN2O3
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 6-[(2-Chloro-4-pyridyl)oxy]-2-pyridinemethanol | 10.2 g, 62.5% | ClC1=NC=CC(=C1)OC1=CC=CC(=N1)CO | C11H9ClN2O2
